US07728009B1
Crude 1-ethyl-4-fluoro-2-naphthalen-1-yl-5-trimethylsilanyl-1H-imidazole (5.49 g) is dissolved in THF (75 ml), and to the solution is added tetrabutylammonium fluoride hydrate (5.4 g, 20.6 mmol, 1.2 eq.). The resulting mixture is stirred at rt for 4 hr. The organic solvent is evaporated under reduced pressure, and the residue is dissolved in EtOAc (150 ml), washed with water and brine, and dried over Na2SO4. Concentration and purification through silica gel chromatography (hexanes/EtOAc, from 8:1 to 4:1) affords 1-ethyl-4-fluoro-2-naphthalen-1-yl-1H-imidazole. LCMS 241 (M+1).

reactant | 1-ethyl-4-fluoro-2-naphthalen-1-yl-5-trimethylsilanyl-1H-imidazole | 5.49 g | C(C)N1C(=NC(=C1[Si](C)(C)C)F)C1=CC=CC2=CC=CC=C12 | C18H21FN2Si
reactant | tetrabutylammonium fluoride hydrate | 20.6 mmol, 5.4 g, 1.2 eq. | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 1-ethyl-4-fluoro-2-naphthalen-1-yl-1H-imidazole | C(C)N1C(=NC(=C1)F)C1=CC=CC2=CC=CC=C12 | C15H13FN2
